US07291619B2
1-(2-aminosulfonyl-phenyl)piperazine
To a 50 mL flask containing 2-flourobenzene sulfonamide (200 mg, 1.14 mmol, 1 eq.) and piperazine (245 mg, 2.84 mmol, 2.5 eq) was added 20 mL of dioxane. The solution was heated to 100° C. for about 4 hours. More piperazine (200 mg, 2.32 mmol, 2 eq.) was added and the solution was heated to 100° C. for another 72 hours. The solution was concentrated to an oil and dissolved in 30 mL of 0.1 M pH 7.0 phosphate buffer. The aqueous solution was extracted with CH2Cl2 (3×30 mL). The combined organic extracts were dried over Na2SO4 and concentrated to yield about 275 mg (1.14 mmol, 100%) of the title compound. LRMS (ESI+): 242.1 (M+H).

reactant | 2-flourobenzene sulfonamide | 1.14 mmol, 200 mg, 1 eq. | FC1=C(C=CC=C1)S(=O)(=O)N | C6H6FNO2S
reactant | piperazine | 2.84 mmol, 245 mg, 2.5 eq | N1CCNCC1 | C4H10N2
reactant | piperazine | 2.32 mmol, 200 mg, 2 eq. | N1CCNCC1 | C4H10N2
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | 1-(2-aminosulfonyl-phenyl)piperazine | 1.14 mmol, about 275 mg, 100% | NS(=O)(=O)C1=C(C=CC=C1)N1CCNCC1 | C10H15N3O2S
